US07981903B2
To a solution of {2-[3-(methyloxy)phenyl]ethyl}amine (20 g, 132.3 mmol) and triethylamine (20 g, 198 mmol) in dichloromethane (150 mL) was added ethyl chloridocarbonate (17.7 g, 163 mmol) dropwise at 0° C. After being stirred for 1 h the solvent was removed under vacuum and the residue was washed with ethyl acetate. Following filtration, the filtrate was concentrated to afford ethyl {2-[3-(methyloxy)phenyl]ethyl}carbamate (32 g, crude, 100%). 1H NMR(CDCl3) δ: 7.15-7.25 (1H), 6.7-6.8 (3H), 4.72 (1H), 3.75 (3H), 3.4 (2H), 2.75 (2H), 2.0 (3H), 1.15-1.3(2H).

reactant | {2-[3-(methyloxy)phenyl]ethyl}amine | 132.3 mmol, 20 g | COC=1C=C(C=CC1)CCN | C9H13NO
reactant | triethylamine | 198 mmol, 20 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloridocarbonate | 163 mmol, 17.7 g | CCOC(=O)Cl | C3H5ClO2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | ethyl {2-[3-(methyloxy)phenyl]ethyl}carbamate | 32 g, 100% | COC=1C=C(C=CC1)CCNC(OCC)=O | C12H17NO3
